US03933837
b. 7-(3,4-Methylenedioxyphenoxy)heptyl iodide.
A mixture of 43.5 g. of 7-(3,4-methylenedioxyphenoxy)heptyl bromide, 20.7 g. of sodium iodide and 300 ml. of acetone was heated at reflux for 2 hours. The reaction mixture was filtered, the filtrate evaporated in vacuo, and the residue partitioned between water and methylene dichloride. The methylene dichloride layer was separated, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue comprising 7-(3,4-methylenedioxyphenoxy)heptyl iodide was used without further purification in the following reaction.

reactant | 7-(3,4-methylenedioxyphenoxy)heptyl bromide | C1OC=2C=C(OCCCCCCCBr)C=CC2O1 | C14H19BrO3
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 7-(3,4-Methylenedioxyphenoxy)heptyl iodide | C1OC=2C=C(OCCCCCCCI)C=CC2O1 | C14H19IO3
